US04024134
7β-(2-Hydroxyimino-2-phenylacetamido)-3-hydroxymethyl-ceph-3-em-4-carboxylic acid sodium salt (syn-isomer)
To 3-acetoxymethyl-7β-(2-hydroxyimino-2-phenyl-acetamido)ceph-3-em-4-carboxylic acid (syn-isomer) (5.0 g) was added sufficient saturated sodium bicarbonate solution to bring the pH to 7.0, during which time solution occurred. To this solution was added water (300 ml) and defatted wheat germ (35 g.), and the suspension stirred vigorously whilst the pH was maintained at between 6.7 and 6.9 by frequent additions of 2N-sodium hydroxide. After addition of ca. 6 ml, the pH remained constant at 6.9. The mixture was poured into acetone (400 ml.), filtered (kieselguhr), and the filtrate evaporated under reduced pressure to remove acetone, then refiltered (kieselguhr). The filtrate was washed with ethyl acetate, and the pH adjusted to 2.8. The aqueous phase was extracted with ethyl acetate, and the extracts were stirred with water (ca. 300 ml) and the pH brought up to 7.0 with 2N sodium hydroxide. The phases were separated and the aqueous phase washed twice with ethyl acetate, once with ether, evaporated under reduced pressure to remove residual solvents, and freeze-dried. This gave the title acid (1.5 g; 31%), [α]D + 93° (c 1.0, DMSO), λmax. (pH 6 phosphate butter) 252 nm (ε 12,800), νmax. (Nujol) 1750 (β-lactam), 1650 and 1530 cm.-1 (amide), τ (DMSO-d6) values include 2.3 to 2.6 (multiplet; aromatic protons): 5.72 and 6.05 [two doublets (branches of a quartet), J 13 Hz CH2OH], 6.44 and 6.44 and 6.68 [two doublets (branches of a quartet), J 18 Hz; C-2 CH2 ].

reactant | 3-acetoxymethyl-7β-(2-hydroxyimino-2-phenyl-acetamido)ceph-3-em-4-carboxylic acid | 5.0 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(C(C2=CC=CC=C2)=NO)=O)=O | C18H17N3O7S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | phosphate | pH 6 | P(=O)([O-])([O-])[O-]
solvent | acetone | 400 ml | CC(=O)C | C3H6O
solvent | water | 300 ml | O | H2O
product | 7β-(2-Hydroxyimino-2-phenylacetamido)-3-hydroxymethyl-ceph-3-em-4-carboxylic acid sodium salt | [Na+].ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O)C1=CC=CC=C1 | InChI=1S/C16H15N3O6S.Na/c20-6-9-7-26-15-11(14(22)19(15)12(9)16(23)24)17-13(21)10(18-25)8-4-2-1-3-5-8;/h1-5,11,15,20,25H,6-7H2,(H,17,21)(H,23,24);/q;+1/p-1/t11-,15-;/m1./s1
